US05484785
Preparation of Ciprofloxacin (S)-5-Oxotetrahydrofuran-2-carboxylate
0.781 G (0.006 mole) of (S)-5-oxotetrahydrofuran-2-carboxylic acid and 1.99 g (0.006 mole) of Ciprofloxacin were added to 10 mL of distilled water. The resulting mixture was stirred for 30 minutes to dissolve it completely. After adding 20 mL of anhydrous acetone, the resulting solution was further stirred for 30 minutes under ice-cooling and allowed to stand to precipitate solids. The precipitated solids were filtered under reduced pressure through a filter paper (Whatman Filter Paper No. 1), washed three times with each 30 mL of anhydrous acetone,-and dried under vacuum to give 2.27 g of the titled compound as white solids. M.P. 214°-219° C. (decomposition) [α]D25 =-3.33 (H2O)

reactant | (S)-5-oxotetrahydrofuran-2-carboxylic acid | 0.006 mole | O=C1CC[C@H](O1)C(=O)O | C5H6O4
reactant | Ciprofloxacin | 0.006 mole, 1.99 g | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4 | C17H18FN3O3
reactant | water | 10 mL | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | Ciprofloxacin (S)-5-Oxotetrahydrofuran-2-carboxylate | 2.27 g | C=1C2=C(C=C(C1F)N3CCNCC3)N(C=C(C2=O)C(=O)O)C4CC4.O=C1CC[C@H](O1)C(=O)[O-] | InChI=1S/C17H18FN3O3.C5H6O4/c18-13-7-11-14(8-15(13)20-5-3-19-4-6-20)21(10-1-2-10)9-12(16(11)22)17(23)24;6-4-2-1-3(9-4)5(7)8/h7-10,19H,1-6H2,(H,23,24);3H,1-2H2,(H,7,8)/p-1/t;3-/m.0/s1
